US07615562B2
[4-(5-Butyl-thiophen-2-yl)-pyrimidin-2-yl]-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine
The title compound was prepared analogous to Method C, starting from (4-chloro-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine and 2-butyl-thiophene.

reactant | (4-chloro-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | ClC1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C13H21ClN4
reactant | 2-butyl-thiophene | C(CCC)C=1SC=CC1 | C8H12S
product | [4-(5-Butyl-thiophen-2-yl)-pyrimidin-2-yl]-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | C(CCC)C1=CC=C(S1)C1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C21H32N4S
